US07994326B2
Synthesis of (2S,4R)-tert-butyl 4-{[(9H-fluoren-9-yl)methoxy]carbonylamino}-2-(3-fluorobenzoyl)pyrrolidine-1-carboxylate (XIII-5).
N-Boc-trans-4-N-Fmoc-amino-L-proline (0.24 g, 0.19 mL, 0.001 mol) in CH2Cl2 (10 mL) was treated with diphenylphosphinic chloride (0.001 mol) at 0° C. in the presence of Et3N (0.10 g, 0.14 mL, 0.001 mol) for 2 h. EtOAc (10 mL) was then added to the mixture, which was then washed successively with H2O (5 mL), saturated NaHCO3 aqueous solution (5 mL), and brine (5 mL), and dried over Na2SO4. The organic layer was concentrated in vacuo, and the resulting residue was dissolved in THF (10 mL). The solution was then cooled to −78° C. 3-Fluorophenylmagnesium bromide solution (1.0 M in THF, 1 mL, 0.001 mol) was added, and the mixture was gradually warmed to room temperature before being poured into a mixture of 0.1 M phosphate buffer (pH=7.2, 5 mL) and 1 M HCl aqueous solution (5 mL) at 0° C. The aqueous layer was extracted with CH2Cl2 (10 mL×3). The combined organic layers were washed successively with saturated aqueous NaHCO3 (10 mL) and brine (10 mL) and dried over Na2SO4. The solvent was evaporated in vacuo, and the residue was purified by column chromatography (silica gel, hexanes:EtOAc=7:3) to afford a white solid (XIII-5, 0.27 g, 50%).

reactant | N-Boc-trans-4-N-Fmoc-amino-L-proline | 0.001 mol, 0.19 mL, 0.24 g | CC(C)(C)OC(=O)N1C[C@@H](C[C@H]1C(=O)O)NC(=O)OCC2C3=CC=CC=C3C4=CC=CC=C24 | C25H28N2O6
reactant | diphenylphosphinic chloride | 0.001 mol | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | Et3N | 0.001 mol, 0.14 mL, 0.10 g | CCN(CC)CC | C6H15N
reactant | 3-Fluorophenylmagnesium bromide | 0.001 mol, 1.0 M, 1 mL | FC=1C=C(C=CC1)[Mg]Br
reactant | phosphate | 0.1 M, 5 mL, pH=7.2 | P(=O)([O-])([O-])[O-]
reactant | HCl | 1 M, 5 mL | Cl | ClH
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | (2S,4R)-tert-butyl 4-{[(9H-fluoren-9-yl)methoxy]carbonylamino}-2-(3-fluorobenzoyl)pyrrolidine-1-carboxylate | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(C1=CC(=CC=C1)F)=O | C31H31FN2O5
